US05591862
According to the method described for Reference Example 22, 4'-(5-methyl-2-phenyl-4-oxazolylmethoxy)acetophenone was allowed to react with trimethyl phosphonoacetate gave methyl (E)-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-butenoate. Recrystallization from ethyl acetate--hexane gave colorless prisms, m.p.125°-126° C.

reactant | 4'-(5-methyl-2-phenyl-4-oxazolylmethoxy)acetophenone | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)C(C)=O | C19H17NO3
reactant | trimethyl phosphonoacetate | COC(=O)CP(=O)(OC)OC | C5H11O5P
product | methyl (E)-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-butenoate | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)/C(=C/C(=O)OC)/C | C22H21NO4
